US04144341
1-Butyl-1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one
To a suspension of 2.6 g. (0.01 mole) of 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]-pyridin-2-one in 150 ml. of acetone, was added 1.12 g. (0.02 mole) of powdered potassium hydroxide. The mixture was stirred at room temperature for 20 minutes and 2.74 g. (0.02 mole) of 1-bromobutane was added. The mixture was stirred at reflux for 16 hours and then evaporated in vacuo. The residue was extracted with a solution of 20 ml. of 2.5 N sodium hydroxide and 50 ml. of water. The product was separated by filtration and was purified by crystallization from ether-petroleum ether giving 2.4 g. of white needles melting at 74°-75° C.

reactant | 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]-pyridin-2-one | 0.01 mole | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O | C13H9N3O3
reactant | potassium hydroxide | 0.02 mole | [OH-].[K+]
reactant | 1-bromobutane | 0.02 mole | BrCCCC | C4H9Br
solvent | acetone | CC(=O)C | C3H6O
product | 1-Butyl-1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one | C(CCC)N1C(N(C2=NC=CC=C21)C2=CC1=C(C=C2)OCO1)=O | C17H17N3O3
